US04713469
To 150 ml of tetrahydrofuran (THF) were added 6.5 g (0.1 mole) of pulverized EtONa and 11.1 g (0.1 mole) of thiophenol and the mixture was refluxed for 10 minutes. Thereto was added 18.5 g (0.1 mole) of ethyl fluorobromoacetate and the mixture was refluxed for one hour with stirring. THF was removed by an evaporator and the precipitated NaBr was filtered. The organic layer was washed with water, dried and distilled to obtain 19.2 g (90%) of ethyl fluoro(phenylthio)acetate.

reactant | EtONa | 0.1 mole, 6.5 g | CC[O-].[Na+]
reactant | thiophenol | 0.1 mole, 11.1 g | C1(=CC=CC=C1)S | C6H6S
reactant | ethyl fluorobromoacetate | 0.1 mole, 18.5 g | FC(C(=O)OCC)Br | C4H6BrFO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl fluoro(phenylthio)acetate | 19.2 g, 90% | FC(C(=O)OCC)SC1=CC=CC=C1 | C10H11FO2S
